US04826814
The water-soluble carbodiimide hydrochloride (4.3 g), 4.0 g of 1-benzyloxycarbonyl-indoline-2(S)-carboxylic acid, 1.2 g of t-butanol and 1.05 g of 4-dimethylaminopyridine were stirred in methylene chloride under ice cooling for 2 hours and then at room temperature overnight. The reaction mixture was washed successively with 10% citric acid, aqueous sodium bicarbonate solution and aqueous sodium chloride solution, and dried. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give 4.4 g of t-butyl 1-benzyloxycarbonyl-indoline-2(S)-carboxylate as an oil. The resulting ester (4.0 g) was dissolved in a mixture of t-butanol, dioxane and methanol, and 5.7 g of ammonium formate and 0.5 g of 10% palladium-carbon were added. The mixture was stirred for 6 hours at room temperature. The catalyst was removed by filtration, and the solvent was evaporated. Aqueous sodium bicarbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous solium chloride solution, and dried. The solvent was evaporated. The residue was mixed with 1.3 g of oxalic acid and recrystallized from ether/isopropanol to give 3.9 g of t-butyl indoline-2(S)-carboxylate oxalate (mp. 123°-125° C.). A methylene chloride solution of 2.6 g of t-butyl indoline-2(S)-carboxylate, 3.7 g of alpha-ethyl N-benzyloxycarbonyl-D-glutamate and 3.8 g of the water-soluble carbodiimide hydrochloride was stirred at room temperature for 4 hours. The reaction mixture was washed successively with aqueous sodium bicarbonate solution, 5% aqueous potassium hydrogensulfate solution, and dried. The solvent was evaporated, and the residue was recrystallized from n-hexane/ethanol to give 4.0 g of t-butyl 1-(N-benzyloxycarbonyl-O1 -ethyl-gamma-D-glutamyl)indoline-2(s)-carboxylate. This product was dissolved in ethanol and 2.6 g of ammonium formate and 1.0 g of 10% palladium-carbon were added. The mixture was stirred at room temperature for 6 hours. The catalyst was removed by filtration, and the solvent was evaporated. The residue was mixed with aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was washed with water, and dried. The solvent was evaporated to give 2.6 g of an oily substance. An aliquot (2.4 g) of the oily substance, 2.67 g of N2 -benzyloxycarbonyl-N6 -t-butoxycarbonyl-L-lysine and 2.08 g of the water-soluble carbodiimide hydrochloride were stirred in methylene chloride for 2 hours. The reaction mixture was washed successively with aqueous sodium bicarbonate solution and 5% aqueous potassium hydrogensulfate solution and dried. The solvent was evaporated to give 4.7 g of a glassy substance. An aliquot (0.7 g) of the glassy substance was stirred with 10 ml of trifluoroacetic acid under ice cooling for 10 minutes. The mixture was concentrated to dryness under reduced pressure, and the residue was subjected to CHP20P column chromatography. Fractions containing the desired product were concentrated to give 0.24 g of the captioned compound.

reactant | water | 4.3 g | O | H2O
reactant | 1-benzyloxycarbonyl-indoline-2(S)-carboxylic acid | 4.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O | C17H15NO4
reactant | t-butanol | 1.2 g | C(C)(C)(C)O | C4H10O
catalyst | 4-dimethylaminopyridine | 1.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | t-butyl 1-benzyloxycarbonyl-indoline-2(S)-carboxylate | 4.4 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)OC(C)(C)C | C21H23NO4
